US06005116
(b) 5-(2.4-Difluorophenyl)-3-hydroxy-4-isopropylisoxazole
2-(2,4-Difluorobenzoyl)isovaleric acid ethyl ester (1.7 g), hydroxylamine hydrochloride (0.9 g) and sodium methoxide (28% methanol solution, 7.5 ml) were subjected to reaction and post-treatment in a similar manner to that described in Reference example 8(b) to obtain the title compound (0.59 g, 39%) as colorless crystals.

reactant | 2-(2,4-Difluorobenzoyl)isovaleric acid ethyl ester | 1.7 g | C(C)OC(C(C(C)C)C(C1=C(C=C(C=C1)F)F)=O)=O | C14H16F2O3
reactant | hydroxylamine hydrochloride | 0.9 g | Cl.NO
reactant | sodium methoxide | 7.5 ml | C[O-].[Na+]
product | 5-(2.4-Difluorophenyl)-3-hydroxy-4-isopropylisoxazole | 0.59 g, 39% | FC1=C(C=CC(=C1)F)C1=C(C(=NO1)O)C(C)C | C12H11F2NO2
